US08664230B2
A mixture of 4-bromo-N-(5-bromopyridin-3-yl)-2-chlorobenzenesulfonamide (0.330 g, 0.774 mmol), bis(pinacolato)diboron (0.216 g, 0.851 mmol), potassium acetate (0.228 g, 2.32 mmol) and PdCl2(dppf)-CH2Cl2 (0.0320 g, 0.039 mmol) in dioxane (3.87 ml) was refluxed for 4 hours, and cooled to room temperature. The reaction mixture was filtered through a Celite pad and washed with DCM. The combined organic layers were washed brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The residue was purified by column chromatography on SiO2 (Hex:EtOAc=10:1) to give 4-bromo-2-chloro-N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)benzenesulfonamide (0.145 g, 40%) as a yellow solid. 1H-NMR (CDCl3, Varian 400 MHz): δ 1.34 (12H, s), 7.35 (1H, s), 7.76-7.78 (2H, m), 7.92 (1H, s), 8.00 (1H, d, J=8.0 Hz), 8.24 (1H, d, J=2.4 Hz), 8.40 (1H, d, J=2.0 Hz).

reactant | 4-bromo-N-(5-bromopyridin-3-yl)-2-chlorobenzenesulfonamide | 0.774 mmol, 0.330 g | BrC1=CC(=C(C=C1)S(=O)(=O)NC=1C=NC=C(C1)Br)Cl | C11H7Br2ClN2O2S
reactant | bis(pinacolato)diboron | 0.851 mmol, 0.216 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.32 mmol, 0.228 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 3.87 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.039 mmol, 0.0320 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 4-bromo-2-chloro-N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)benzenesulfonamide | 0.145 g, 40% | BrC1=CC(=C(C=C1)S(=O)(=O)NC=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C)Cl | C17H19BBrClN2O4S
